US04414226
Synthesis of 1,8-dihydroxy-3-methyl-7,12-dihydro-5H-benzo[d]naphtho[2,3-b]pyran-5,7,12-trione
In methylene chloride was dissolved 8-hydroxy-1-methoxy-3-methyl-7,12-dihydro-5H-benzo[d]naphtho[2,3-b]pyran-5,7,12-trione (2 g), and under ice-cooling, a methylene chloride solution of boron tribromide (2 ml) was added dropwise. The mixture was further stirred at that temperature for 2 hours, at the end of which time it was washed with water and dried over magnesium sulfate. The solvent was then distilled off to give crude crystals. Recrystallization from methanol gave yellow crystals (1.1 g).

reactant | 8-hydroxy-1-methoxy-3-methyl-7,12-dihydro-5H-benzo[d]naphtho[2,3-b]pyran-5,7,12-trione | 2 g | OC1=CC=CC=2C(C3=C(OC(C4=C3C(=CC(=C4)C)OC)=O)C(C12)=O)=O | C19H12O6
reactant | boron tribromide | 2 ml | B(Br)(Br)Br | BBr3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1,8-dihydroxy-3-methyl-7,12-dihydro-5H-benzo[d]naphtho[2,3-b]pyran-5,7,12-trione | 1.1 g | OC1=CC(=CC2=C1C1=C(OC2=O)C(C=2C(=CC=CC2C1=O)O)=O)C | C18H10O6
